US05998470
a) N-(Cbz-leucinyl)-amino-propene
N-Cbz-leucine (3.0 g, 11.3 mmol) was dissolved in DMF (50 ml), then NMM (1.3 g, 12.4 mmol) was added, followed by allyl amine (0.65 g, 0.85 mmol), and HBTU (4.3 g, 11.3 mmol) and the reaction was stirred overnight at RT. The reaction was diluted with water, extracted with EtOAc, dried with magnesium sulfate, filtered, concentrated, and chromatographed (silica gel, 40% EtOAc:hexanes): MS(ES) M+H+ =305.

reactant | N-Cbz-leucine | 11.3 mmol, 3.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | NMM | 12.4 mmol, 1.3 g | CN1CCOCC1 | C5H11NO
reactant | allyl amine | 0.85 mmol, 0.65 g | C(C=C)N | C3H7N
reactant | HBTU | 11.3 mmol, 4.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(Cbz-leucinyl)-amino-propene | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)NC=CC | C17H24N2O3
